US05132319
Step 1: 1-(2-Oxopropyl)indole
To a solution of indole-N-acetic acid (KNK, 10 g, 57 mmol) in dry ether (150 mL) was added dropwise at 0° C. a solution of MeLi (75 mL, 1.4M in ether as LiBr complex). The reaction mixture was then stirred at r.t. for 2 hrs. Chlorotrimethylsilane (70 mL, 0.57 mol) was added dropwise at 0° C. Then the cooling bath was removed and 1N HCl (70 mL) was added at r.t. The aqueous portion was extracted with ethyl acetate and the combined organic phase was washed with brine, dried over MgSO4 and evaporated. Purification by flash chromatography usine 30% ethyl acetate in hexanes gave the title compound.

reactant | indole-N-acetic acid | 57 mmol, 10 g | N1(C=CC2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | Chlorotrimethylsilane | 0.57 mol, 70 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | ether | 150 mL | CCOCC | C4H10O
product | 1-(2-Oxopropyl)indole | O=C(CN1C=CC2=CC=CC=C12)C | C11H11NO
